* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1112.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
X§U1 IN- N003 +V -V N001 LT1112
X§U2 IN+ N005 +V -V N006 LT1112
V2 -V 0 -15
X§U3 N004 N002 +V -V OUT LT1112
R3 N001 N003 10K
R4 N003 N005 2.15K
R5 N005 N006 10K
V3 IN- IN+ SINE(0 1m 100)
V4 IN+ 0 SINE(0 1 10)
R1 N002 N001 100
R2 N004 N006 100
R6 OUT N002 10K
R7 0 N004 10K
.tran .3
* Three Op Amp Instrumentation Amplifier
.lib LTC.lib
.backanno
.end
